* C:\Users\Maxim\Desktop\ltsPICE_FRONT_END\frontend.asc
V1 N001 0 5
V2 N003 0 SINE(2.5 2.4 1K)
R1 N002 0 10K
XU1 N003 N002 N001 0 N002 ONSEMI_MC33201
.INCLUDE MC33201.lib
.tran 0 101m 1m 0.01m
.backanno
.end
